US06284894B1
1-(2-Methyl-2-propen-1-yl)-3,5-dinitrobenzene
To a solution of t-butylnitrite (0.13 ml, 1.1 mmol) and 3-bromo-2-methylpropene (0.82 ml, 8.25 mmol) in 1 ml CH3CN, 3,5-dinitroaniline (0.10 g, 0.55 mmol) was added at room temperature. The solution was stirred for 17 h at room temperature and then isopropylether was added. The suspension was filtered through a pad of Al2O3. The volatile material in the solution was removed at reduced pressure to give the title compound. 1H-NMR (CDCl3, 300 MHz) δ ppm: 8.92 (t, J=2.1 Hz, 1H), 8.40 (d, J=2.1 Hz, 2H), 5.00 (s, 1H), 4.82 (s, 1H), 3.55 (s, 2H), 1.72 (s, 3H). 13C-NMR (CDCl3, 75.43 MHz) δ ppm: 148.4, 144.2, 142.0, 129.0, 116.9, 114.8, 43.9, 22.0.

reactant | t-butylnitrite | 1.1 mmol, 0.13 ml | C(C)(C)(C)ON=O | C4H9NO2
reactant | 3-bromo-2-methylpropene | 8.25 mmol, 0.82 ml | BrCC(=C)C | C4H7Br
reactant | 3,5-dinitroaniline | 0.55 mmol, 0.10 g | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
reactant | isopropylether | C(C)(C)OC(C)C | C6H14O
solvent | CH3CN | 1 ml | CC#N | C2H3N
product | 1-(2-Methyl-2-propen-1-yl)-3,5-dinitrobenzene | CC(CC1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=C | C10H10N2O4
